US04632693
Methyl 2[(dimethylamino)thioxomethoxyl]-4-methoxybenzoate
To a mixture of 350 g of methyl 2-hydroxy-4-methoxybenzoate, 648 g of 1,4-diazabicyclo[2.2.2]-octane (DABCO) and 3 L of dimethylformamide was added 712 g of dimethylthiocarbamoyl chloride. The mixture was warmed to 50° C. and held for 7 hours, then allowed to cool overnight. The mixture was poured into 10 L water; the aqueous mixture was extracted with 8 L of benzene-hexane (4:1). The organic solution was washed with 1N HCl, 10% NaOH, and dried over magnesium sulfate. Evaporation of the solvent in vacuo gave 396 g of the title compound, m.p. 95°-105° C. Further extraction of the aqueous mixture gave additional product, 171 g, m.p. 117°-120° C. Recrystallization of a portion of the crude product from methanol gave pure material, m.p. 122°-124° C.

reactant | methyl 2-hydroxy-4-methoxybenzoate | 350 g | OC1=C(C(=O)OC)C=CC(=C1)OC | C9H10O4
reactant | 1,4-diazabicyclo[2.2.2]-octane | 648 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylformamide | 3 L | CN(C=O)C | C3H7NO
reactant | dimethylthiocarbamoyl chloride | 712 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | water | 10 L | O | H2O
product | Methyl 2[(dimethylamino)thioxomethoxyl]-4-methoxybenzoate | 396 g | CN(C)C(OC1=C(C(=O)OC)C=CC(=C1)OC)=S | C12H15NO4S
